US07049444B2
6-(3-Nitrophenyl)-3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hexan-2-one
To a solution of ethyl 2-(bromomethyl)-3-(3-nitrophenyl)cyclopropane carboxylate (Preparation 23, 60 mg, 0.18 mmol) in N,N-dimethylformamide (2 ml) was added sodium hydrogen carbonate (30 mg, 0.36 mmol) and 3-phenylpropylamine (30 mg, 31 μl, 0.22 mmol). The mixture was heated to 150° C. for 1 hour, then cooled to room temperature and stirred for 16 hours. Water (30 ml) was added and the mixture was extracted with diethyl ether (2×50 ml). The combined extracts were concentrated in vacuo and the residue was purified by silica (5 g) column chromatography eluting with dichloromethane then 4:1 dichloromethane:ethyl acetate. Product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless glassy solid (55 mg, 90%).

reactant | ethyl 2-(bromomethyl)-3-(3-nitrophenyl)cyclopropane carboxylate | 0.18 mmol, 60 mg | BrCC1C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C13H14BrNO4
reactant | sodium hydrogen carbonate | 0.36 mmol, 30 mg | C(O)([O-])=O.[Na+]
reactant | 3-phenylpropylamine | 0.22 mmol, 31 μl, 30 mg | C1(=CC=CC=C1)CCCN | C9H13N
reactant | Water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-(3-Nitrophenyl)-3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hexan-2-one | 55 mg, 90% | [N+](=O)([O-])C=1C=C(C=CC1)C1C2CN(C(C12)=O)CCCC1=CC=CC=C1 | C20H20N2O3
